US03989842
4. Production of N-(2,6-dichlorobenzoyl)-N'-(3,4-dichlorophenyl)-thiourea.
10.5 g of 2.6-dichlorobenzoylchloride are added drop by drop with stirring to a solution of 3.8 g of ammonium rhodanide in 15 ml of acetone. After boiling for 15 minutes the reaction mixture is added drop by drop to a solution of 8.1 g of 3,4-dichloroaniline in 15 ml of acetone. After stirring for 30 minutes the reaction mixture is poured in water and extracted with ether. The ethereal solution is dried and concentrated by evaporation and the residue is taken up in benzene. After working up and decrystallizing from benzene 1.3 g of the superscribed substance is obtained. Melting point 240° C.

reactant | 2.6-dichlorobenzoylchloride | 10.5 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | ammonium rhodanide | 3.8 g | C(#N)S.N
reactant | 3,4-dichloroaniline | 8.1 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N-(2,6-dichlorobenzoyl)-N'-(3,4-dichlorophenyl)-thiourea | ClC1=C(C(=O)NC(=S)NC2=CC(=C(C=C2)Cl)Cl)C(=CC=C1)Cl | C14H8Cl4N2OS
